US07582766B2
A suspension of 5-bromo-2-methoxy-4-methylaniline hydrochloride [formed from the reaction of 5-bromo-2-methoxy-4-methylaniline (4.32 g, 20 mmol) with conc. HCl (20 ml)] was cooled to 0° C. and an aqueous solution of NaNO2 (1.224 g, 24 mmol in 5 mL H2O) was added slowly, keeping the reaction temperature below 5° C. When addition of the nitrite was complete, the reaction mixture was stirred for 30 min at 0° C., then poured into a previously prepared mixture containing 30% SO2 in AcOH (30 mL), a solution of CuCl22H2O (5.13 g, 30 mmol) in 15 mL H2O and benzene (20 mL). The reaction mixture was heated slowly to 35° C., at which point the evolution of nitrogen gas was observed. When gas evolution had stopped, the reaction mixture was diluted with water (200 mL), the organic layer was separated, washed with an aqueous solution of saturated NaHCO3, dried over Na2SO4 and evaporated to dryness to give the crude sulfonylchloride 12d as a brown oil (˜3 g). This intermediate was dissolved in hexane (20 mL), a solution of concentrated NH4OH (20 mL) was added and reaction mixture was stirred vigorously at RT overnight. The brown solid formed was collected by filtration and treated with 10% KOH solution (20 mL). Any insoluble impurities were removed by filtration and the filtrate was acidified to give a beige precipitate which was filtered, washed with water and air dried to give the pure product 5-bromo-2-methoxy-4-methylbenzenesulfonamide 12e (0.586 g, 10.4% overall yield).

reactant | 5-bromo-2-methoxy-4-methylaniline hydrochloride | Cl.BrC=1C(=CC(=C(N)C1)OC)C
solvent | HCl | 20 ml | Cl | ClH
product | 5-bromo-2-methoxy-4-methylaniline | 20 mmol, 4.32 g | BrC=1C(=CC(=C(N)C1)OC)C | C8H10BrNO
